US06376492B1
Starting material 3-acetyl-2-fluoro-6-methoxyphenyl-amine, was prepared in following manner: A mixture of 2-Fluoro-4-methoxyacetophenone (5 g)(Fluorochem), ethylene glycol (4 ml), and p-toluensulfonic acid (50 mg) in toluene was refluxed 10 hours to give 5.7 g of 2-(2-fluoro-4-methoxyphenyl)-2-methyl-1,3-dioxolane. This was converted to 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)-benzaldehyde according to Example 362 of WO 93/03022. This compound was converted to 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)-cinnamic acid ethylester according to the methods described in Example 353 of WO 93/03022. 2-Fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)cinnamic acid ethylester was then treated with KOH in dioxane and water to yield 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)cinnamic acid. Hydrolysis with aqueous HCl in dioxane gave 3-acetyl-2-fluoro-6-methoxycinnamic acid. N-(3-Acetyl-2-fluoro-6-methoxyphenyl)-N′-(5-chloropyrid-2-yl)-urea was then prepared in a manner analogous to the method in Example 7. 1H NMR (250 MHz, CDCl3) δ 9.18 (br s, 1H), 8.97 (br s, 1H), 7.85 (d, 1H), 7.83 (t, 1H), 7.51 (dd, 1H), 6.83 (d, 1H), 6.70 (d, 1H), 3.82 (s, 3H), 3.57 (q, 2H), 3.08-2.92 (m, 2H), 2.51 (d, 3H).

reactant | 3-acetyl-2-fluoro-6-methoxyphenyl-amine | C(C)(=O)C=1C(=C(C(=CC1)OC)N)F | C9H10FNO2
reactant | 2-Fluoro-4-methoxyacetophenone | 5 g | CC(=O)C1=C(C=C(C=C1)OC)F | C9H9FO2
reactant | ethylene glycol | 4 ml | C(CO)O | C2H6O2
reactant | p-toluensulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-fluoro-4-methoxyphenyl)-2-methyl-1,3-dioxolane | 5.7 g | FC1=C(C=CC(=C1)OC)C1(OCCO1)C | C11H13FO3
